************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE4130_Project
* Top Cell Name: SRAM
* View Name:     schematic
* Netlisted on:  Nov 11 17:01:08 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECE4130_Project
* Cell Name:    SRAM
* View Name:    schematic
************************************************************************

.SUBCKT SRAM !BL BL WL
*.PININFO WL:I !BL:B BL:B
MM4 gnd! net9 net2 gnd! NMOS_VTL W=200n L=50n
MM5 net9 net2 gnd! gnd! NMOS_VTL W=200n L=50n
MM3 net2 WL !BL gnd! NMOS_VTL W=150n L=50n
MM2 BL WL net9 gnd! NMOS_VTL W=150n L=50n
MM0 vdd! net9 net2 vdd! PMOS_VTL W=100n L=50n
MM1 net9 net2 vdd! vdd! PMOS_VTL W=100n L=50n
.ENDS

